US07700625B2
4-Methoxyisoindoline (4.4 g, 29.53 mmol) in 48% aqueous hydrobromic acid (50 ml) was stirred and held at reflux for 16 hours. Upon cooling to room temperature the solvent was removed in vacuo to afford 4-hydroxyisoindoline hydrobromide (5.0 g, 78%) as a pale orange solid. 1H NMR (DMSO-d6) 9.95 (1H, br s), 9.37 (2H, br s), 7.19 (1H, t), 6.84 (1H, d), 6.80 (1H, d), 4.48 (2H, t), 4.40 (2H, t). MS: [M+H]+ 136.

reactant | 4-Methoxyisoindoline | 29.53 mmol, 4.4 g | COC1=C2CNCC2=CC=C1 | C9H11NO
reactant | hydrobromic acid | 50 ml | Br | BrH
product | 4-hydroxyisoindoline hydrobromide | 5.0 g, 78% | Br.OC1=C2CNCC2=CC=C1 | InChI=1S/C8H9NO.BrH/c10-8-3-1-2-6-4-9-5-7(6)8;/h1-3,9-10H,4-5H2;1H
